US05550134
(4aR)-(10bR)-4,10b-dimethyl-8-(2-phenylethenyl)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
Five hundred mg of (4aR)-(10bR)-4,10b-dimethyl-8-bromo-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one, 4 mg of palladium acetate, 20 mg of tri-o-tolylphosphine, 0.34 mL of triethylamine and 5 mL of dimethylformamide were placed in a screw capped sealable tube with a stir bar. The mixture was warmed to 60° and then 200 mg of styrene was added and the vessel was flushed with argon. The vessel was then capped and heated at 120° for 24 h. The reaction mixture was cooled, diluted with ethyl acetate and filtered and the filtrate was concentrated under vacuum. The residue was dissolved in chloroform and washed twice with water. The organic layer was dried, filtered and evaporated under vacuum to obtain 400 mg of residue, which was recrystallized from ethyl acetate to obtain the desired product. m.p. 173°-175°. FDMS m/e=331.

reactant | (4aR)-(10bR)-4,10b-dimethyl-8-bromo-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | Five hundred mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | triethylamine | 0.34 mL | C(C)N(CC)CC | C6H15N
reactant | styrene | 200 mg | C=CC1=CC=CC=C1 | C8H8
catalyst | palladium acetate | 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolylphosphine | 20 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (4aR)-(10bR)-4,10b-dimethyl-8-(2-phenylethenyl)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 400 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C=CC3=CC=CC=C3)C)=O | C23H25NO
